US05198014
A stirred solution of 0.3 grams (0.001 mole) of 4-cyano-5-formyl-2-(3-chloro-5-trifluoromethylpyridin-2-yl)-1H-pyrazole, 0.2 gram (0.002 mole) of malonic acid, two drops of piperidine, and 3 mL of pyridine was heated at reflux for about 18 hours. After this time, the reaction mixture was cooled and was concentrated under reduced pressure to a residue. The residue was stirred with excess aqueous 2N hydrochloric acid and ethyl acetate. The organic layer was separated and washed with aqueous 2N hydrochloric acid and then with water. The organic layer was dried with magnesium sulfate and filtered. The filtrate was concentrated under reduced pressure to a residue. The residue was triturated several times with petroleum ether, and each time the supernatent liquid was discarded. The resultant solid was dried, yielding 3-[4-cyano-2-(3-chloro-5-trifluoromethylpyridin-2-yl)-1H-pyrazol-5-yl]acrylic acid. The nmr spectrum was consistent with the proposed structure and was identical to the nmr spectrum of this compound prepared by the method of Example 4.

reactant | 4-cyano-5-formyl-2-(3-chloro-5-trifluoromethylpyridin-2-yl)-1H-pyrazole | 0.001 mole, 0.3 grams | C(#N)C=1CN(NC1C=O)C1=NC=C(C=C1Cl)C(F)(F)F | C11H6ClF3N4O
reactant | malonic acid | 0.002 mole, 0.2 gram | C(CC(=O)O)(=O)O | C3H4O4
catalyst | piperidine | two drops | N1CCCCC1 | C5H11N
solvent | pyridine | 3 mL | N1=CC=CC=C1 | C5H5N
product | 3-[4-cyano-2-(3-chloro-5-trifluoromethylpyridin-2-yl)-1H-pyrazol-5-yl]acrylic acid | C(#N)C=1CN(NC1C=CC(=O)O)C1=NC=C(C=C1Cl)C(F)(F)F | C13H8ClF3N4O2
